US08026257B2
1,5-Dimethyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole.
tert-Butyl 4-(((1,5-dimethyl-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (24 mg, 0.053 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 1.5 mL) and stirred at room temperature for 45 min. The reaction was concentrated, and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol to give 18.8 mg (quant.) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 7.81 (s, 1H), 7.39 (s, 1H), 7.26 (m, 4H), 7.18 (m, 1H), 6.94 (s, 1H), 4.63 (s, 2H), 3.89 (s, 3H), 3.42 (s, 2H), 2.80 (m, 2H), 2.69 (m, 2H), 2.39 (s, 3H), 2.08 (m, 2H), 1.81 (m, 2H), 1.50-2.00 (bs, 1H); 13C-NMR (CDCl3, 126 MHz) δ 144.3, 137.4, 132.0, 130.8, 129.3, 128.3, 127.2, 126.1, 126.0, 120.5, 119.9, 79.0, 71.2, 42.7, 41.7, 38.0, 33.7, 21.1. Mass spec.: 350.05 (MH)+. Accurate mass spec.: m/z 350.2222 [MH]+, Δ=3.0 ppm.

reactant | tert-Butyl 4-(((1,5-dimethyl-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.053 mmol, 24 mg | CN1NCC2=CC(=CC(=C12)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C27H37N3O3
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1,5-Dimethyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole | CN1N=CC2=CC(=CC(=C12)COCC1(CCNCC1)C1=CC=CC=C1)C | C22H27N3O
